US08420642B2
5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-ylamine (0.37 mmol) is dissolved in THF (5.5 ml) and 1,1-thiocarbonyldiimidazole (4 eq.) is added. The reaction solution is stirred 3 days. 32% NH4OH (20 eq.) is added and stirred 4 hours at room temperature. Water (150 ml) is added and extracted with dichloromethane. The combined organic layers are washed with brine and dried over MgSO4. The solvent is removed in vacuo. [5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)pyridine-2-yl]-thiourea is obtained as brown oil in a yield of 75%. HPLC (method C): 1.60 min; LC-MS (method A): 1.37 min, 398.15 (MH+).

reactant | 5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)-pyridine-2-ylamine | 0.37 mmol | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)N)OCCOC)C=C1 | C15H18N2O5S
reactant | 1,1-thiocarbonyldiimidazole | 4 eq. | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | NH4OH | 20 eq. | [NH4+].[OH-]
reactant | Water | 150 ml | O | H2O
solvent | THF | 5.5 ml | C1CCOC1 | C4H8O
product | [5-(4-Methanesulfonyl-phenoxy)-3-(2-methoxy-ethoxy)pyridine-2-yl]-thiourea | yield of 75% | CS(=O)(=O)C1=CC=C(OC=2C=C(C(=NC2)NC(=S)N)OCCOC)C=C1 | C16H19N3O5S2
